Bridge rectifier conduction loss and junction temperature (docs/THERMAL_AND_PROTECTION.md sections 1 and 8).  BR1 (+18V), BR4 (+20V), BR2 (+5V raw) and BR5 (+12V power) are DISCRETE bridges of four ST STPS20M100S 100 V / 20 A D2PAK Schottky diodes (DS6169 rev 5) since the 2026-09-07 review; BR3 (+50V) stays a GBPC3510W block under a Boyd 6224BG basket (9.4 C/W). Each rail is rectified with the real winding, the diode model and its filter, then loaded with (a) the sustained design load, (b) the everything-on / fuse-limit load. Per case: DC output current (average of |i_leg|), leg RMS current, the model dissipation of the whole bridge (AC-side minus DC-side power) and, for the Schottky bridges, the PER-DIODE loss from the datasheet equation P = 0.425 IF(AV) + 0.0088 IF(RMS)^2 with IF(AV) = Iavg/2 and IF(RMS) = Irms/sqrt(2) (each diode conducts every other half-cycle), the required Rth(j-a) for Tj <= 110 C at 50 C ambient and the Tj on the copper area assumed per diode (ST figure 9, D2PAK on 35 um FR4: 70 / 55 / 46 / 39 / 35 / 31 / 30 C/W at 0.5 / 1 / 2 / 5 / 10 / 20 / 40 cm2; 2 oz outer copper taken as 10 % better): BR1 diodes 15 cm2 each (33 C/W x 0.9 = 29.7 C/W; the 2.5 ohm all-lamps load draws 6.4 A from the higher Schottky rail), BR4 4 cm2 (36 C/W), BR2 / BR5 2 cm2 (41 C/W). BR3: P = 2 (0.80 Iavg + 0.017 Irms^2) (GBPC35 max Vf), Rth(j-a) = 1.4 + 0.5 + 9.4 x 1.05 = 11.8 C/W, Tj <= 125 C
.include /Users/mc/Williams-WPC-Power-Driver-Board-A-12697-3-/tools/spice/models.lib
* ---- 18a: BR1 +18V, everything on: all 64 lamps (2.5 ohm) + the +12V digital buck at 0.75 A (as psu_maxload)
V18a p18a q18a SIN(0 20.680000000000003 60)
Rp18a p18a a18a 0.05
Rq18a q18a b18a 0.05
Vs18a a18a ab18a 0
D118a ab18a dc18a DSCH3060
D218a b18a dc18a DSCH3060
D318a 0 ab18a DSCH3060
D418a 0 b18a DSCH3060
C18a dc18a 0 20000u
Rl18a dc18a 0 2.5
Bv12a v12a 0 V = 0.5*(1+tanh((v(dc18a)-8.5)*40)) * min(12.0, max(0.97*v(dc18a) - 0.5, 0))
R12a v12a 0 16
Bin12a dc18a 0 I = (v(v12a)*v(v12a)/16) / (0.88*max(v(dc18a),1))
* ---- 18b: BR1 +18V, sustained design point 3.0 A DC (about half the lamps lit + the buck, or an LED-converted machine)
V18b p18b q18b SIN(0 20.680000000000003 60)
Rp18b p18b a18b 0.05
Rq18b q18b b18b 0.05
Vs18b a18b ab18b 0
D118b ab18b dc18b DSCH3060
D218b b18b dc18b DSCH3060
D318b 0 ab18b DSCH3060
D418b 0 b18b DSCH3060
C18b dc18b 0 20000u
Bl18b dc18b 0 I = (time > 60m) ? 3.0 : 0
* ---- 18c: BR1 +18V, F114 rating 8 A DC (bound, informational)
V18c p18c q18c SIN(0 20.680000000000003 60)
Rp18c p18c a18c 0.05
Rq18c q18c b18c 0.05
Vs18c a18c ab18c 0
D118c ab18c dc18c DSCH3060
D218c b18c dc18c DSCH3060
D318c 0 ab18c DSCH3060
D418c 0 b18c DSCH3060
C18c dc18c 0 20000u
Bl18c dc18c 0 I = (time > 60m) ? 8.0 : 0
* ---- 20a: BR4 +20V, sustained design point 2.5 A DC (flashers at ~50 % of the F111 rating during a lamp show)
V20a p20a q20a SIN(0 24.860000000000003 60)
Rp20a p20a a20a 0.05
Rq20a q20a b20a 0.05
Vs20a a20a ab20a 0
D120a ab20a dc20a DSCH3060
D220a b20a dc20a DSCH3060
D320a 0 ab20a DSCH3060
D420a 0 b20a DSCH3060
C20a dc20a 0 10000u
Bl20a dc20a 0 I = (time > 60m) ? 2.5 : 0
* ---- 20b: BR4 +20V, F111 rating 5 A DC (bound, informational)
V20b p20b q20b SIN(0 24.860000000000003 60)
Rp20b p20b a20b 0.05
Rq20b q20b b20b 0.05
Vs20b a20b ab20b 0
D120b ab20b dc20b DSCH3060
D220b b20b dc20b DSCH3060
D320b 0 ab20b DSCH3060
D420b 0 b20b DSCH3060
C20b dc20b 0 10000u
Bl20b dc20b 0 I = (time > 60m) ? 5.0 : 0
* ---- 50a: BR3 +50V, sustained design point 3.0 A DC (a 14.5 ohm coil held 50 % of the time plus play; the flippers are rectified on the Fliptronic board from J104)
V50a p50a q50a SIN(0 79.97000000000001 60)
Rp50a p50a a50a 0.6
Rq50a q50a b50a 0.6
Vs50a a50a ab50a 0
D150a ab50a dc50a DGBPC35
D250a b50a dc50a DGBPC35
D350a 0 ab50a DGBPC35
D450a 0 b50a DGBPC35
C50a dc50a 0 4400u
R260a dc50a 0 7.5k
Bl50a dc50a 0 I = (time > 60m) ? 3.0 : 0
* ---- 50b: BR3 +50V, F112 rating 7 A DC (bound, informational)
V50b p50b q50b SIN(0 79.97000000000001 60)
Rp50b p50b a50b 0.6
Rq50b q50b b50b 0.6
Vs50b a50b ab50b 0
D150b ab50b dc50b DGBPC35
D250b b50b dc50b DGBPC35
D350b 0 ab50b DGBPC35
D450b 0 b50b DGBPC35
C50b dc50b 0 4400u
R260b dc50b 0 7.5k
Bl50b dc50b 0 I = (time > 60m) ? 7.0 : 0
* ---- 5a: BR2 +5V raw, +5V buck at its rated 3 A output (the converter limits this rail: F113 is never reached)
V5a p5a q5a SIN(0 13.97 60)
Rp5a p5a a5a 0.05
Rq5a q5a b5a 0.05
Vs5a a5a ab5a 0
D15a ab5a dc5a DSCH3060
D25a b5a dc5a DSCH3060
D35a 0 ab5a DSCH3060
D45a 0 b5a DSCH3060
C5a dc5a 0 10000u
Bv5a v5a 0 V = 0.5*(1+tanh((v(dc5a)-5.6)*40)) * min(5.10, max(0.97*v(dc5a) - 0.5, 0))
R5a v5a 0 1.667
Bin5a dc5a 0 I = (v(v5a)*v(v5a)/1.667) / (0.88*max(v(dc5a),1))
* ---- 5b: BR2 +5V raw, +5V buck at the estimated real load 2.4 A (README: 2.2-2.6 A)
V5b p5b q5b SIN(0 13.97 60)
Rp5b p5b a5b 0.05
Rq5b q5b b5b 0.05
Vs5b a5b ab5b 0
D15b ab5b dc5b DSCH3060
D25b b5b dc5b DSCH3060
D35b 0 ab5b DSCH3060
D45b 0 b5b DSCH3060
C5b dc5b 0 10000u
Bv5b v5b 0 V = 0.5*(1+tanh((v(dc5b)-5.6)*40)) * min(5.10, max(0.97*v(dc5b) - 0.5, 0))
R5b v5b 0 2.083
Bin5b dc5b 0 I = (v(v5b)*v(v5b)/2.083) / (0.88*max(v(dc5b),1))
* ---- 12a: BR5 +12V power, sustained design point 2.5 A DC (gun motors, optos, coin door, DMD - psu_12vu)
V12a p12a q12a SIN(0 19.393 60)
Rp12a p12a a12a 0.25
Rq12a q12a b12a 0.25
Vs12a a12a ab12a 0
D112a ab12a dc12a DSCH3060
D212a b12a dc12a DSCH3060
D312a 0 ab12a DSCH3060
D412a 0 b12a DSCH3060
C12a dc12a 0 10000u
Bl12a dc12a 0 I = (time > 60m) ? 2.5 : 0
* ---- 12b: BR5 +12V power, F116 rating 3 A DC (bound, informational)
V12b p12b q12b SIN(0 19.393 60)
Rp12b p12b a12b 0.25
Rq12b q12b b12b 0.25
Vs12b a12b ab12b 0
D112b ab12b dc12b DSCH3060
D212b b12b dc12b DSCH3060
D312b 0 ab12b DSCH3060
D412b 0 b12b DSCH3060
C12b dc12b 0 10000u
Bl12b dc12b 0 I = (time > 60m) ? 3.0 : 0
* 25 C approximate maximum-Vf fit: 0.515 V @15 A, 0.590 V @30 A.
.model DSCH3060 D(Is=6e-7 n=1.05 Rs=.0038 Cjo=3n Tt=0 Bv=60 Ibv=1u Eg=.69 Xti=2)
.options reltol=0.002
.tran 20u 300m uic
.control
run
let i18a = i(Vs18a)
let ia18a = abs(i18a)
let pin18a = (v(a18a) - v(b18a)) * i18a
let pout18a = v(dc18a) * ia18a
meas tran iavg_18a AVG ia18a from=250m to=300m
meas tran irms_18a RMS i18a from=250m to=300m
meas tran pin_18a AVG pin18a from=250m to=300m
meas tran pout_18a AVG pout18a from=250m to=300m
meas tran vdc_18a AVG v(dc18a) from=250m to=300m
let pmodel_18a = pin_18a - pout_18a
let pd_18a = 0.395*iavg_18a/2 + 0.0047*irms_18a*irms_18a/2
let pds_18a = 4*pd_18a
let rthreq_18a = 60/pd_18a
let tj_18a = 50 + pd_18a*29.7
print pmodel_18a
print pd_18a
print pds_18a
print rthreq_18a
print tj_18a
let i18b = i(Vs18b)
let ia18b = abs(i18b)
let pin18b = (v(a18b) - v(b18b)) * i18b
let pout18b = v(dc18b) * ia18b
meas tran iavg_18b AVG ia18b from=250m to=300m
meas tran irms_18b RMS i18b from=250m to=300m
meas tran pin_18b AVG pin18b from=250m to=300m
meas tran pout_18b AVG pout18b from=250m to=300m
meas tran vdc_18b AVG v(dc18b) from=250m to=300m
let pmodel_18b = pin_18b - pout_18b
let pd_18b = 0.395*iavg_18b/2 + 0.0047*irms_18b*irms_18b/2
let pds_18b = 4*pd_18b
let rthreq_18b = 60/pd_18b
let tj_18b = 50 + pd_18b*29.7
print pmodel_18b
print pd_18b
print pds_18b
print rthreq_18b
print tj_18b
let i18c = i(Vs18c)
let ia18c = abs(i18c)
let pin18c = (v(a18c) - v(b18c)) * i18c
let pout18c = v(dc18c) * ia18c
meas tran iavg_18c AVG ia18c from=250m to=300m
meas tran irms_18c RMS i18c from=250m to=300m
meas tran pin_18c AVG pin18c from=250m to=300m
meas tran pout_18c AVG pout18c from=250m to=300m
meas tran vdc_18c AVG v(dc18c) from=250m to=300m
let pmodel_18c = pin_18c - pout_18c
let pd_18c = 0.395*iavg_18c/2 + 0.0047*irms_18c*irms_18c/2
let pds_18c = 4*pd_18c
let rthreq_18c = 60/pd_18c
let tj_18c = 50 + pd_18c*29.7
print pmodel_18c
print pd_18c
print pds_18c
print rthreq_18c
print tj_18c
let i20a = i(Vs20a)
let ia20a = abs(i20a)
let pin20a = (v(a20a) - v(b20a)) * i20a
let pout20a = v(dc20a) * ia20a
meas tran iavg_20a AVG ia20a from=250m to=300m
meas tran irms_20a RMS i20a from=250m to=300m
meas tran pin_20a AVG pin20a from=250m to=300m
meas tran pout_20a AVG pout20a from=250m to=300m
meas tran vdc_20a AVG v(dc20a) from=250m to=300m
let pmodel_20a = pin_20a - pout_20a
let pd_20a = 0.395*iavg_20a/2 + 0.0047*irms_20a*irms_20a/2
let pds_20a = 4*pd_20a
let rthreq_20a = 60/pd_20a
let tj_20a = 50 + pd_20a*36.0
print pmodel_20a
print pd_20a
print pds_20a
print rthreq_20a
print tj_20a
let i20b = i(Vs20b)
let ia20b = abs(i20b)
let pin20b = (v(a20b) - v(b20b)) * i20b
let pout20b = v(dc20b) * ia20b
meas tran iavg_20b AVG ia20b from=250m to=300m
meas tran irms_20b RMS i20b from=250m to=300m
meas tran pin_20b AVG pin20b from=250m to=300m
meas tran pout_20b AVG pout20b from=250m to=300m
meas tran vdc_20b AVG v(dc20b) from=250m to=300m
let pmodel_20b = pin_20b - pout_20b
let pd_20b = 0.395*iavg_20b/2 + 0.0047*irms_20b*irms_20b/2
let pds_20b = 4*pd_20b
let rthreq_20b = 60/pd_20b
let tj_20b = 50 + pd_20b*36.0
print pmodel_20b
print pd_20b
print pds_20b
print rthreq_20b
print tj_20b
let i50a = i(Vs50a)
let ia50a = abs(i50a)
let pin50a = (v(a50a) - v(b50a)) * i50a
let pout50a = v(dc50a) * ia50a
meas tran iavg_50a AVG ia50a from=250m to=300m
meas tran irms_50a RMS i50a from=250m to=300m
meas tran pin_50a AVG pin50a from=250m to=300m
meas tran pout_50a AVG pout50a from=250m to=300m
meas tran vdc_50a AVG v(dc50a) from=250m to=300m
let pmodel_50a = pin_50a - pout_50a
let pds_50a = 2*(0.8*iavg_50a + 0.017*irms_50a*irms_50a)
let tj_50a = 50 + pds_50a*11.8
print pmodel_50a
print pds_50a
print tj_50a
let i50b = i(Vs50b)
let ia50b = abs(i50b)
let pin50b = (v(a50b) - v(b50b)) * i50b
let pout50b = v(dc50b) * ia50b
meas tran iavg_50b AVG ia50b from=250m to=300m
meas tran irms_50b RMS i50b from=250m to=300m
meas tran pin_50b AVG pin50b from=250m to=300m
meas tran pout_50b AVG pout50b from=250m to=300m
meas tran vdc_50b AVG v(dc50b) from=250m to=300m
let pmodel_50b = pin_50b - pout_50b
let pds_50b = 2*(0.8*iavg_50b + 0.017*irms_50b*irms_50b)
let tj_50b = 50 + pds_50b*11.8
print pmodel_50b
print pds_50b
print tj_50b
let i5a = i(Vs5a)
let ia5a = abs(i5a)
let pin5a = (v(a5a) - v(b5a)) * i5a
let pout5a = v(dc5a) * ia5a
meas tran iavg_5a AVG ia5a from=250m to=300m
meas tran irms_5a RMS i5a from=250m to=300m
meas tran pin_5a AVG pin5a from=250m to=300m
meas tran pout_5a AVG pout5a from=250m to=300m
meas tran vdc_5a AVG v(dc5a) from=250m to=300m
let pmodel_5a = pin_5a - pout_5a
let pd_5a = 0.395*iavg_5a/2 + 0.0047*irms_5a*irms_5a/2
let pds_5a = 4*pd_5a
let rthreq_5a = 60/pd_5a
let tj_5a = 50 + pd_5a*41.0
print pmodel_5a
print pd_5a
print pds_5a
print rthreq_5a
print tj_5a
let i5b = i(Vs5b)
let ia5b = abs(i5b)
let pin5b = (v(a5b) - v(b5b)) * i5b
let pout5b = v(dc5b) * ia5b
meas tran iavg_5b AVG ia5b from=250m to=300m
meas tran irms_5b RMS i5b from=250m to=300m
meas tran pin_5b AVG pin5b from=250m to=300m
meas tran pout_5b AVG pout5b from=250m to=300m
meas tran vdc_5b AVG v(dc5b) from=250m to=300m
let pmodel_5b = pin_5b - pout_5b
let pd_5b = 0.395*iavg_5b/2 + 0.0047*irms_5b*irms_5b/2
let pds_5b = 4*pd_5b
let rthreq_5b = 60/pd_5b
let tj_5b = 50 + pd_5b*41.0
print pmodel_5b
print pd_5b
print pds_5b
print rthreq_5b
print tj_5b
let i12a = i(Vs12a)
let ia12a = abs(i12a)
let pin12a = (v(a12a) - v(b12a)) * i12a
let pout12a = v(dc12a) * ia12a
meas tran iavg_12a AVG ia12a from=250m to=300m
meas tran irms_12a RMS i12a from=250m to=300m
meas tran pin_12a AVG pin12a from=250m to=300m
meas tran pout_12a AVG pout12a from=250m to=300m
meas tran vdc_12a AVG v(dc12a) from=250m to=300m
let pmodel_12a = pin_12a - pout_12a
let pd_12a = 0.395*iavg_12a/2 + 0.0047*irms_12a*irms_12a/2
let pds_12a = 4*pd_12a
let rthreq_12a = 60/pd_12a
let tj_12a = 50 + pd_12a*41.0
print pmodel_12a
print pd_12a
print pds_12a
print rthreq_12a
print tj_12a
let i12b = i(Vs12b)
let ia12b = abs(i12b)
let pin12b = (v(a12b) - v(b12b)) * i12b
let pout12b = v(dc12b) * ia12b
meas tran iavg_12b AVG ia12b from=250m to=300m
meas tran irms_12b RMS i12b from=250m to=300m
meas tran pin_12b AVG pin12b from=250m to=300m
meas tran pout_12b AVG pout12b from=250m to=300m
meas tran vdc_12b AVG v(dc12b) from=250m to=300m
let pmodel_12b = pin_12b - pout_12b
let pd_12b = 0.395*iavg_12b/2 + 0.0047*irms_12b*irms_12b/2
let pds_12b = 4*pd_12b
let rthreq_12b = 60/pd_12b
let tj_12b = 50 + pd_12b*41.0
print pmodel_12b
print pd_12b
print pds_12b
print rthreq_12b
print tj_12b

let reverse_18a=v(dc18a)-v(ab18a)
meas tran vr_18a MAX reverse_18a
let reverse_20a=v(dc20a)-v(ab20a)
meas tran vr_20a MAX reverse_20a
let reverse_5a=v(dc5a)-v(ab5a)
meas tran vr_5a MAX reverse_5a
let reverse_12b=v(dc12b)-v(ab12b)
meas tran vr_12b MAX reverse_12b
.endc
.end
